US05378716
1-Benzyloxy-3-(3-benzyloxycarbonylpropyl)benzene
A mixture of 1-hydroxy-3-(3-benzyioxycarbonylpropyl)benzene (2.0 g), benzylbromide (1.14 ml), potassium bicabonate (1.53 g) and dimethylformamide (20 ml) was stirred for 3 h at room temperature. The mixture was quenched by addition of water and extracted with a mixture of n-hexane:ethyl acetate (3:1). The extract was washed with water and a saturated aqueous solution of sodium chloride, successively, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=10:1) to give the title compound (2.55 g) having the following physical data.

reactant | 1-hydroxy-3-(3-benzyioxycarbonylpropyl)benzene | 2.0 g | OC1=CC(=CC=C1)CCCC(=O)OCC1=CC=CC=C1 | C17H18O3
reactant | benzylbromide | 1.14 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium bicabonate | 1.53 g | C([O-])(O)=O.[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-Benzyloxy-3-(3-benzyloxycarbonylpropyl)benzene | 2.55 g | C(C1=CC=CC=C1)OC1=CC(=CC=C1)CCCC(=O)OCC1=CC=CC=C1 | C24H24O3
